US04845283
Preparation of 2-(cyclopent-2-enyl)-4,4'-methylenedianiline
A 1.64 mol portion of 4,4'-methylenedianiline, 1.23 mol (2.45 equivalent) of dicyclopentadiene, 2.78 mol of pentane, and 20.0 g of an amorphous silica-alumina catalyst comprised of 13% alumina and 87% silica were charged to a 1000 cc pressure vessel equipped with a mechanical stirrer. The vessel was sealed and purged with nitrogen leaving a 32 psig nitrogen blanket. The vessel contents were heated to 205° C. with stirring and were maintained at that temperature for 22 hr. The contents were cooled to 150° C. and isolated catalyst free by hot filtration. Selective removal of residual hydrocarbons by vacuum distillation and analysis by gas chromatography (GC) revealed the following product mixture:

reactant | 4,4'-methylenedianiline | C(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C13H14N2
reactant | dicyclopentadiene | 1.23 mol, 2.45 equivalent | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | pentane | 2.78 mol | CCCCC | C5H12
product | 2-(cyclopent-2-enyl)-4,4'-methylenedianiline | C1(C=CCC1)C1=C(N)C=CC(=C1)CC1=CC=C(N)C=C1 | C18H20N2
